US05053422
B) Isobutyl 4-oxo-2-imidazolidinepropanoate
To a solution of isobutyl (E)-1-benzyloxycarbonyl-4-oxo-2-imidazolidineacrylate (7.7 g, 22.2 mmol) in 96% ethanol (200 ml), 5% palladium on charcoal (0.5 g) was added and hydrogen was bubbled at 20° C. and at atmospheric pressure for 2 hours. Removal of the catalyst and evaporation of the solvent gave a residue which was triturated with diisopropyl ether to give 4.1 g (86%) of the title compound, m.p. 50°-52° C. NMR (CDCl3): deltaH =4.45 (t, J=6 Hz, 1H, N--C--N), 3.10 (s, 2 H, N--CH2 --CO). MS (E.I., 70 eV, 1.5 mA) m/z=214 (M+), 157 (M--C4H9)+, 85 (M--C7H13O2)+.

reactant | isobutyl (E)-1-benzyloxycarbonyl-4-oxo-2-imidazolidineacrylate | 22.2 mmol, 7.7 g | C(C1=CC=CC=C1)OC(=O)N1C(NC(C1)=O)/C=C/C(=O)OCC(C)C | C18H22N2O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | Isobutyl 4-oxo-2-imidazolidinepropanoate | 4.1 g, 86% | O=C1NC(NC1)CCC(=O)OCC(C)C | C10H18N2O3
